US08044062B2
To a solution of 8-ethyl-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (6.31 g, 26.84 mmol) in DCM was added Br2 (4.79 g, 29.52 mmol) dropwise at room temperature. Then the reaction mixture was stirred at room temperature overnight. After filtration the solid was suspended in DCM (100 mL), and triethylamine (20 mL) was added. The mixture was washed with water and dried with Na2SO4, and the product 6-bromo-8-ethyl-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (6.96 g, 83% yield) was obtained after evaporation of DCM. 1H NMR (400 MHz, CDCl3): δ 8.22 (s, 1H), 4.56 (q, J=7.2 Hz, 2H), 2.68 (s, 3H), 2.62 (s, 3H), 1.34 (t, J=7.2 Hz, 3H).

reactant | 8-ethyl-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 26.84 mmol, 6.31 g | C(C)N1C(C=CC2=C1N=C(N=C2C)SC)=O | C11H13N3OS
reactant | Br2 | 29.52 mmol, 4.79 g | BrBr | Br2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-bromo-8-ethyl-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 6.96 g, 83% yield | BrC1=CC2=C(N=C(N=C2C)SC)N(C1=O)CC | C11H12BrN3OS
